### PR TITLE
Existence of odd perfect number

### PR DESCRIPTION
**Pull request by shamEiNew**
one of the easy target from  #[104](https://github.com/google-deepmind/formal-conjectures/issues/104)

### CODE REVIEW

File: FormalConjectures/Other/OddPerfectNumber.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+there are no odd perfect numbers.
+-/
+
+open Nat
+
+/--
+A number is perfect if it equals the sum of its proper divisors.
+-/
+def IsPerfect (n : ℕ) : Prop :=
+  n > 0 ∧ ∑ d ∈ n.properDivisors, d = n
```
Comment (alreadydone) [inline FormalConjectures/Other/OddPerfectNumber.lean]: Just use [Nat.Perfect](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/Divisors.html#Nat.Perfect)

File: FormalConjectures/Other/OddPerfectNumber.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+
+/--
+The Odd Perfect Number Conjecture states that there are no odd perfect numbers.
+-/
+@[category research open, AMS 11]
+theorem odd_perfect_number_conjecture :
+    ¬∃ n, Odd n ∧ IsPerfect n := by
+  sorry
```
Comment (alreadydone) [inline FormalConjectures/Other/OddPerfectNumber.lean]: Is it better as `∀ n, n.Perfect → Even n`?

Comment (alreadydone) [reply FormalConjectures/Other/OddPerfectNumber.lean]: ~~BTW it seems the [Euclid–Euler theorem](https://en.wikipedia.org/wiki/Euclid%E2%80%93Euler_theorem) hasn't been formalized in mathlib, since [Loogle](https://loogle.lean-lang.org/?q=Nat.Perfect%2C+Even) found no results. (update: it's [here](https://github.com/grhkm21/lean/commit/0bc0d6d0f201a71667b5a6f5276e818246c1cc3b#diff-6d69de13930fd2ec8481806746077e90b446615c8d320eb8e138f169670e6c74R109) modulo two sorries)~~
Nevermind, it's [Theorems100.Nat.even_and_perfect_iff](https://leanprover-community.github.io/mathlib4_docs/Archive/Wiedijk100Theorems/PerfectNumbers.html#Theorems100.Nat.even_and_perfect_iff).

**Review by alreadydone — APPROVED** [review]
Thanks, LGTM!

File: FormalConjectures/Other/OddPerfectNumber.lean [hunk 3]
```diff
@@ -0,0 +1,70 @@
...
+The Odd Perfect Number Conjecture states that all perfect numbers are even.
+-/
+@[category research open, AMS 11]
+theorem odd_perfect_number_conjecture :
+    ∀ n, Perfect n → Even n := by
+  sorry
+
+/--
+A known result: If an odd perfect number exists, it must be greater than 10^1500
+and must have at least 101 prime factors (including multiplicities).
```
Comment (mo271) [inline FormalConjectures/Other/OddPerfectNumber.lean:46]: Wouldn't "including multiplicities" here mean we cannot just just `Nat.primeFactors` as done below?

**Review by mo271 — CHANGES_REQUESTED** [review]
Other than the questions on multiplicities, LGTM

File: FormalConjectures/Other/OddPerfectNumber.lean [hunk 4]
```diff
@@ -0,0 +1,70 @@
...
+-/
+
+open Nat
+
+/--
+The Odd Perfect Number Conjecture states that all perfect numbers are even.
+-/
+@[category research open, AMS 11]
+theorem odd_perfect_number_conjecture :
+    ∀ n, Perfect n → Even n := by
```
Comment (Paul-Lez) [inline FormalConjectures/Other/OddPerfectNumber.lean]: very small style nitpick
```suggestion
theorem odd_perfect_number_conjecture (n : ℕ) (hn : Perfect n) : Even n := by
```

File: FormalConjectures/Other/OddPerfectNumber.lean (hunk 3 above)
Comment (b-mehta) [reply FormalConjectures/Other/OddPerfectNumber.lean:46]: Probably the easiest fix is to use the `List.length` of `Nat.primeFactorsList`

Comment (alreadydone) [reply FormalConjectures/Other/OddPerfectNumber.lean:46]: Oh I didn't catch this. Wikipedia says at least 10 distinct prime factors, so maybe change 101 to 10 (as well as the docstring)?

**Comment by mo271** [comment]
Thanks!

File: FormalConjectures/Other/OddPerfectNumber.lean [hunk 5]
```diff
@@ -0,0 +1,69 @@
...
+
+/--
+A known result: If an odd perfect number exists, it must be of the form
+p^α * m^2 where p is prime, p ≡ 1 (mod 4), α ≡ 1 (mod 4), and p ∤ m.
+
+Reference: Euler's theorem on odd perfect numbers
+-/
+@[category research solved, AMS 11]
+theorem odd_perfect_number.euler_form (n : ℕ) (hn : Odd n) (hp : Perfect n) :
+    ∃ (p m : ℕ) (α : ℕ),
```
Comment (callesonne) [inline FormalConjectures/Other/OddPerfectNumber.lean]:
```suggestion
    ∃ (p m α : ℕ),
```

File: FormalConjectures/Other/OddPerfectNumber.lean [hunk 6]
```diff
@@ -0,0 +1,69 @@
...
+      p.Prime ∧
+      p ≡ 1 [ZMOD 4] ∧
+      α ≡ 1 [ZMOD 4] ∧
+      ¬(p ∣ m) ∧
```
Comment (callesonne) [inline FormalConjectures/Other/OddPerfectNumber.lean]:
```suggestion
      ¬ p ∣ m ∧
```

**Review by callesonne — COMMENTED** [review]
Here are some style comments
